US05062884
b) 2-Bromo-5-nitrocinnamic acid
This reaction was carried out similarly to Example 1, with 2-bromo-5-nitrobenzaldehyde and malonic acid in pyridine and with piperidine. The product of melting point 185° C. was obtained in 57% yield.

reactant | 2-bromo-5-nitrobenzaldehyde | BrC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Bromo-5-nitrocinnamic acid | 57% yield | BrC1=C(C=CC(=O)O)C=C(C=C1)[N+](=O)[O-] | C9H6BrNO4
